US05108500
B. Copper Dodecylbenzene sulfonate
Into a fritted column was added: 12 g (12 meq H+) ion exchange resin (Amberlite® IR 120 brand). Resin beads were washed with 100 ml deionized water. Into a 50 ml beaker were added: 8.6 g (10 meq) sodium dodecyl benzene sulfonate (Biosoft D-40 brand), 7 g water, and 7 g isopropanol. The Biosoft D-40 solution was run through the column and collected in a 100 ml beaker containing: 0.58 g (12 meq Cu) copper hydroxide mixture and 20 g water. The effluent/copper hydroxide mixture was swirl mixed while collecting the effluent. A 10 g water rinse of the column was added to the copper mixture. Extraction of the beaker's contents was done with 2×25 ml toluene. The toluene solubles were dried with molecular sieve. Stripping, on a rotary evaporator removed the toluene, and the resulting solids were vacuum dried overnight at room temperature.

reactant | sodium dodecyl benzene sulfonate | 8.6 g, 10 meq | C1(=CC=CC=C1)S(=O)(=O)OCCCCCCCCCCCC.[Na]
reactant | isopropanol | 7 g | C(C)(C)O | C3H8O
reactant | copper hydroxide | 0.58 g, 12 meq | [OH-].[Cu+2].[OH-]
solvent | water | 20 g | O | H2O
solvent | water | 7 g | O | H2O
product | Copper Dodecylbenzene sulfonate | C(CCCCCCCCCCC)OS(=O)(=O)C1=CC=CC=C1.[Cu] | InChI=1S/C18H30O3S.Cu/c1-2-3-4-5-6-7-8-9-10-14-17-21-22(19,20)18-15-12-11-13-16-18;/h11-13,15-16H,2-10,14,17H2,1H3;
